US06987104B2
A solution of (S)-N-(trifluoroacetyl)prolyl chloride (Aldrich) 1 equiv. in DCM is treated with 1-amino-propan-2-one (1.5 equiv.) in pyridine at rt for 5 hours. After usual work up, it provides 1-trifluoroacetyl-pyrrolidine-2-carboxylic acid (2-oxo-propyl)-amide.

reactant | (S)-N-(trifluoroacetyl)prolyl chloride | 1 equiv. | FC(C(=O)N1[C@H](C(=O)Cl)CCC1)(F)F | C7H7ClF3NO2
reactant | 1-amino-propan-2-one | 1.5 equiv. | NCC(C)=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-trifluoroacetyl-pyrrolidine-2-carboxylic acid (2-oxo-propyl)-amide | O=C(CNC(=O)C1N(CCC1)C(C(F)(F)F)=O)C | C10H13F3N2O3
